US05990105
0.48 g (0.0025 mol) of 2,6-dibromo-4-nitropyridine and 0.70 g (0.0024 mol) of 4-nitrothiophenol potassium salt were dissolved in 12.5 ml of dimethylformamide and stirred at room temperature for 3 hrs. The solvent was removed and the residue was partitioned in water and ethyl acetate. The combined organic phases were washed with sat. sodium chloride solution and dried over MgSO4. After filtration and removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane 1:19 and subsequently dried in a high vacuum. There was obtained 0.785 g (81%) of 2,6-dibromo-4-(4-nitrophenylsulphanyl)-pyridine as yellow crystals; m.p. 166-168° C.

reactant | 2,6-dibromo-4-nitropyridine | 0.0025 mol, 0.48 g | BrC1=NC(=CC(=C1)[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | 4-nitrothiophenol potassium salt | 0.0024 mol, 0.70 g | [K].[N+](=O)([O-])C1=CC=C(C=C1)S
solvent | dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
product | 2,6-dibromo-4-(4-nitrophenylsulphanyl)-pyridine | 0.785 g, 81% | BrC1=NC(=CC(=C1)SC1=CC=C(C=C1)[N+](=O)[O-])Br | C11H6Br2N2O2S
